US08404736B2
Step 8 (S)-4-(1-{[2-Methyl-4-(4-trifluoromethyl-benzyl)-4H-thieno[3,2-b]pyrrole-3-carbonyl]-amino}-ethyl)-benzoic acid
A mixture of 0.043 g of 2-methyl-4-(4-trifluoromethyl-benzyl)-4H-thieno[3,2-b]pyrrole-3-carboxylic acid, 0.060 g of (S)-4-(1-amino-ethyl)-benzoic acid methyl ester, 0.040 g of HOBT-hydrate, 0.054 g of ethyl-dimethylaminopropyl-carbodiimide hydrochloride (EDCI) and 0.060 ml of N-methylmorpholine in 2 ml of DMF was stirred at room temperature for 18 h. The reaction was then quenched with 1 ml of water and 2 ml of saturated NaHCO3 solution. The resulting mixture extracted with 15 ml of EtOAc. The organic layer was dried over Na2SO4, filtered, and concentrated to give the crude methyl ester which was dissolved in 2 ml THF, 2 mL MeOH and 0.5 mL water and treated with 0.5 mL of 1M LiOH solution. After stirring for 24 h at room temperature, the reaction mixture was concentrated under reduced pressure to remove THF and MeOH. The residue was diluted with 2 mL of water and treated with 0.3 mL of AcOH with vigorous stirring. After stirring for 2 h, the solid was collected by filtration and air-dried to give 0.029 g of the title compound as a white powder.

reactant | 2-methyl-4-(4-trifluoromethyl-benzyl)-4H-thieno[3,2-b]pyrrole-3-carboxylic acid | 0.043 g | CC1=C(C=2N(C=CC2S1)CC1=CC=C(C=C1)C(F)(F)F)C(=O)O | C16H12F3NO2S
reactant | (S)-4-(1-amino-ethyl)-benzoic acid methyl ester | 0.060 g | COC(C1=CC=C(C=C1)[C@H](C)N)=O | C10H13NO2
reactant | ethyl-dimethylaminopropyl-carbodiimide hydrochloride | 0.054 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N-methylmorpholine | 0.060 ml | CN1CCOCC1 | C5H11NO
reactant | LiOH | 1M, 0.5 mL | [Li+].[OH-]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | MeOH | 2 mL | CO | CH4O
product | (S)-4-(1-{[2-Methyl-4-(4-trifluoromethyl-benzyl)-4H-thieno[3,2-b]pyrrole-3-carbonyl]-amino}-ethyl)-benzoic acid | 0.029 g | CC1=C(C=2N(C=CC2S1)CC1=CC=C(C=C1)C(F)(F)F)C(=O)N[C@@H](C)C1=CC=C(C(=O)O)C=C1 | C25H21F3N2O3S
